US04363816
3-Amino-1,4,5-trimethyl-1H-pyrrole-2-carbonitrile
10.3 ml (0.74 mole) of triethylamine, 7.2 g (0.74 mole) of 3-cyanobutan-2-one and 0.5 g of p-toluenesulfonic acid are successively added to a suspension of 7.8 g (0.74 mole) of N-methylaminoacetonitrile hydrochloride in 70 ml of chloroform, and the mixture is boiled for 5 hours, using a water separator. After it has been boiled, the mixture is washed twice with 10 ml of water each time and dried over sodium sulfate; the solvent is then stripped off in vacuo. In order to remove all of the chloroform, the residue is twice taken up in 100 ml (each time) of dry ethanol, and the mixture concentrated each time in vacuo. The resulting oil is warmed (bath temperature of 50° C.) in 100 ml of 1 N sodium ethylate/ethanol for 2 hours; some of the ethanol is removed. The mixture is then taken up in 100 ml of water and extracted several times with methylene chloride. After being dried over sodium sulfate and concentrated on a rotary evaporator, the extracts yield a solid residue, which is recrystallized from diisopropyl ether.

reactant | triethylamine | 0.74 mole, 10.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyanobutan-2-one | 0.74 mole, 7.2 g | C(#N)C(C(C)=O)C | C5H7NO
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-methylaminoacetonitrile hydrochloride | 0.74 mole, 7.8 g | CNCC#N.Cl
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-Amino-1,4,5-trimethyl-1H-pyrrole-2-carbonitrile | NC1=C(N(C(=C1C)C)C)C#N | C8H11N3
